US04162154
2-Methylallyl chloride (108 parts) was added dropwise to a mixture of 4-bromoanisole (240 parts) and a concentrated sulphuric acid (20 parts) over a period of 2 hours at a temperature of 25°-35° C. Stirring was continued for 5 hours and the mixture was then kept for 24 hours at room temperature. Ether (400 parts) was then added and the resulting solution washed with water, aqueous sodium bicarbonate solution and water again. After drying with sodium sulphate and evaporating off the solvent the brown oil which remained was distilled yielding 4-bromo-2-(2-chloro-1,1-dimethylethyl)anisole (118 parts), boiling point 106°-120°/0.4 mm Hg. Recrystallisation from petroleum ether (b.p. 80°-100° C.) gave the pure product (98 parts), melting point 86°-88° C.

reactant | 2-Methylallyl chloride | CC(CCl)=C | C4H7Cl
reactant | 4-bromoanisole | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | Ether | CCOCC | C4H10O
product | 4-bromo-2-(2-chloro-1,1-dimethylethyl)anisole | BrC1=CC(=C(C=C1)OC)C(CCl)(C)C | C11H14BrClO
